US06586617B1
Synthesis of 2′,4′-Dinitro-N-methoxy-p-toluenesulfonanilide (Compound No. 545)
To a suspension of sodium hydride (60%, 0.24 g (6.00 mmol)) in DMF (8.0 ml), N-(2,4-dinitrophenyl)-O-methylhydroxylamine (0.85 g (3.99 mmol)) was added under ice-cooling with stirring. After 15 minutes' stirring under ice-cooling, p-toluenesulfonyl chloride (1.15 g (6.03 mmol)) was added. Then, the temperature of the reaction mixture was brought to room temperature and stirred at the same temperature for 18 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The extract was washed with water and saturated sodium chloride solution, successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel chromatography with ethyl acetate-hexane (1:3) as eluent, to give 0.30 g (21%) of the title compound as orange crystals.

reactant | sodium hydride | 6.00 mmol, 0.24 g | [H-].[Na+]
reactant | N-(2,4-dinitrophenyl)-O-methylhydroxylamine | 3.99 mmol, 0.85 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NOC | C7H7N3O5
reactant | p-toluenesulfonyl chloride | 6.03 mmol, 1.15 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | DMF | 8.0 ml | CN(C)C=O | C3H7NO
product | 2′,4′-Dinitro-N-methoxy-p-toluenesulfonanilide | 0.30 g, 21% | [N+](=O)([O-])C1=C(N(S(=O)(=O)C2=CC=C(C=C2)C)OC)C=CC(=C1)[N+](=O)[O-] | C14H13N3O7S
